US08048909B2
Methyl 3-[(4-formyl-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoate
Using 5-phenyl-1H-pyrrole-3-carbaldehyde (1.32 g), sodium hydride (60% in oil, 444 mg), 15-crown-5 (2.04 g) and methyl 3-(chlorosulfonyl)benzoate (2.17 g), a procedure as in Reference Example 219 was performed to give the title compound as a pale-yellow oil (yield 1.96 g, 69%).

reactant | 5-phenyl-1H-pyrrole-3-carbaldehyde | 1.32 g | C1(=CC=CC=C1)C1=CC(=CN1)C=O | C11H9NO
reactant | sodium hydride | 444 mg | [H-].[Na+]
reactant | 15-crown-5 | 2.04 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | methyl 3-(chlorosulfonyl)benzoate | 2.17 g | ClS(=O)(=O)C=1C=C(C(=O)OC)C=CC1 | C8H7ClO4S
product | Methyl 3-[(4-formyl-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoate | yield 1.96 g, 69% | C(=O)C=1C=C(N(C1)S(=O)(=O)C=1C=C(C(=O)OC)C=CC1)C1=CC=CC=C1 | C19H15NO5S
